### PR TITLE
Amend definitions of labeled things.

### PR DESCRIPTION
**Pull request by aferr**
# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

**Comment by aferr** [comment]
copy/pasting the first commit message in case it's helpful as a guide for what this change is:

The main reason for this change is to make the proj_node_state_to_proj_n
provable, while still supporting creating/destroying nodes and channels
that are labeled secret.

The main change is that for objects that have labels:
- labels are now decoupled from the rest of the object
- the objects are replaced by options, and empty versions are really
none. This is done with the definition "labeled" in RuntimeModel.v

To give confidence that this change makes forward progress, note that
- secret labeled objects holding a None are indistinguishable from real
ones, so this does not undo the change in
[#1603](#1603)
- If a nid/handle points to a real object in a projected state, it does
also guarantee the same is true in the non-projected state, making the
troublesome theorem provable.

As a side-effect the definitions of several theorems in NIUtilTheorems
get better reuse, and the low projections are also probably more
trustworthy since they are more clearly distinguished from real objects.

**Review by jadephilipoom — APPROVED** [review]
LGTM!

File: experimental/ni_coq/vfiles/LowEquivalences.v [hunk 1]
```diff
@@ -85,15 +69,19 @@ Definition state_low_proj (ell: level)(s: state): state := {|
...
-Definition node_state_low_eq := low_eq node_state_low_proj.
-Definition chan_state_low_eq := low_eq chan_state_low_proj.
-Definition state_low_eq := low_eq state_low_proj.
+Definition low_eq_t {A: Type}: Type := level -> A -> A -> Prop.
+Definition low_eq {A: Type} ell (x: @labeled A) (y: @labeled A) :=
+    (low_proj ell x) = (low_proj ell y).
+
+Definition chan_low_eq := @low_eq channel.
+Definition node_low_eq := @low_eq node.
+Definition event_low_eq := @low_eq event.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/LowEquivalences.v:78]: To keep the consistency in the order with XXX_low_proj and XXX_state_low_eq definitions, I am suggesting

Definition node_low_eq := @low_eq node.
Definition chan_low_eq := @low_eq channel.
Definition event_low_eq := @low_eq event.

Comment (jieungkim) [inline experimental/ni_coq/vfiles/LowEquivalences.v:78]: To keep the consistency in the order with XXX_low_proj and XXX_state_low_eq definitions, I am suggesting

```suggestion
Definition node_low_eq := @low_eq node.
Definition chan_low_eq := @low_eq channel.
Definition event_low_eq := @low_eq event.
```

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 2]
```diff
@@ -81,117 +46,106 @@ Admitted.
...
-    - (* flows *)
-        rewrite Hflows. reflexivity.
-    - (* not flows *) 
-        replace (nlbl (empty_node (nlbl n))) with (nlbl n) by auto.
-        rewrite Hflows. reflexivity.
+Theorem labeled_low_proj_idempotent {A: Type}: forall ell, idempotent (@low_proj A ell).
+Proof.
+    intros. unfold idempotent. intros x.
+    destruct x. unfold low_proj. destruct (lbl <<? ell)  eqn:Hflows;
+    rewrite Hflows;eauto.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:53]: add space

```suggestion
    rewrite Hflows; eauto.
```

**Review by jieungkim — APPROVED** [review]
